US05962685
Synthesis of 2-propyl-4-methyl-5-(2-chloro-6-(4,6-dimethoxypyrimidine-2-yloxy)phenyl)oxazole (Compound No. 3-118)
2 ml DMF solution containing 0.24 g 2-propyl-4-methyl-5-(2-chloro-6-hydroxyphenyl)oxazole, 0.2 g 2-methanesulfonyl-4,6-dimethoxypyrimidine and 0.26 g pottasium carbonate was stirred for 14 hours at 60° C. After completing the reaction, the solution reacted was poured into ice water and was then extracted with ethyl acetate. The organic layer obtained was washed with water and was then dried by using anhydrous magnesium sulfate. After filtration, the solvent used was removed by distillation under reduce pressure. The residue obtained was purified by using silica gel column chromatography, where hexane-ethyl acetate solution in a mixing ratio of 4:1 is used, affording the objective substance in an amount of 0.26 g.

reactant | 2-propyl-4-methyl-5-(2-chloro-6-hydroxyphenyl)oxazole | 0.24 g | C(CC)C=1OC(=C(N1)C)C1=C(C=CC=C1O)Cl | C13H14ClNO2
reactant | 2-methanesulfonyl-4,6-dimethoxypyrimidine | 0.2 g | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
reactant | carbonate | 0.26 g | C([O-])([O-])=O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 2-propyl-4-methyl-5-(2-chloro-6-(4,6-dimethoxypyrimidine-2-yloxy)phenyl)oxazole | C(CC)C=1OC(=C(N1)C)C1=C(C=CC=C1OC1=NC(=CC(=N1)OC)OC)Cl | C19H20ClN3O4
